US06977262B2
A solution of 4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine (22.9 g), di-t-butyl dicarbonate (19.4 g) and dimethylaminopyridine (0.5 g) in tetrahydrofuran (200 ml) was stirred at room temperature for 30 minutes. The reaction mixture was ice-cooled and the precipitated crystals were collected by filtration to give 2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine (21.8 g) as white crystals. 2-(t-Butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine (5.0 g), N-bromosuccinimide (2.5 g) and azobisisobutyronitrile (66 mg) were suspended in benzene (50 ml) and the suspension was stirred for 1 hour. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (2:1)) and crystallized from ethyl acetate to give 6-bromomethyl-2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine as white crystals. To a suspension of sodium hydride (32 mg) in DMF (10 ml) was added morpholine (70 μl) and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added 6-bromomethyl-2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (0.36 g) and the mixture was stirred under ice-cooling for 1 hour. To the reaction mixture was added water, and the precipitated crystals were collected by filtration and washed with hexane to give 2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-(morpholin-4-yl)methyl-2H-pyrazolo[3,4-b]pyridine (450 mg) as white crystals. A solution of 2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-(morpholin-4-yl)methyl-2H-pyrazolo[3,4-b]pyridine (440 mg) in trifluoroacetic acid (5 ml) was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure and 4M hydrochloric acid-dioxane solution was added. The precipitated crystals were collected by filtration and washed with ethyl acetate to give the title compound (250 mg) as pale-yellow crystals.

reactant | 4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine | 22.9 g | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)C)=NNC2 | C14H11ClN4
reactant | di-t-butyl dicarbonate | 19.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | dimethylaminopyridine | 0.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | 2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine | 21.8 g | C(C)(C)(C)OC(=O)N1N=C2NC(=C(C(C2=C1)C1=C(C=CC=C1)Cl)C#N)C | C19H19ClN4O2
